US05300499
5-[(4-t-butyldimethylsiloxyphenyl)(trimethylsiloxy)methyl]-3-bromothiophene
5.9 gms (0.02 mol) of 4-bromo t-butyldimethylsiloxybenzene were dissolved in 42 ml of dry THF. The solution was cooled to -78° C. while under an argon atmosphere and 13.1 ml (0.02 mol) of a 1.6M solution of n-butyl lithium in hexane were added. After stirring for fifteen minutes under argon the solution was combined over a twenty-five-minute period with a solution of 4.0 gms (0.02 mol) of 4-bromo-2-thiophene carboxaldehyde in 50 ml. of THF at -78° C. The resulting solution was stirred for one hour and fifteen minutes at -78° C. 1.95 ml of trimethylsilylchloride (TMSCI) were added and the solution was allowed to warm to room temperature overnight with stirring. An additional 10 ml of TMSCl were added and the solution was stirred for six hours. The reaction was quenched with water; the organic phase was separated from the brine, dried over MgSO4, filtered, concentrated and separated by flash chromatography, utilizing hexane as the eluant. 2.5 gms of a clear colorless liquid were recovered having an NMR spectra of:

reactant | 4-bromo t-butyldimethylsiloxybenzene | 0.02 mol, 5.9 gms | BrC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C12H19BrOSi
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-bromo-2-thiophene carboxaldehyde | 0.02 mol, 4.0 gms | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | trimethylsilylchloride | 1.95 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | TMSCl | 10 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 42 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-[(4-t-butyldimethylsiloxyphenyl)(trimethylsiloxy)methyl]-3-bromothiophene | O([Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)C(C1=CC(=CS1)Br)O[Si](C)(C)C | C20H31BrO2SSi2
